US05538986
Dissolved 10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-nitrile (4.68 g, 0.018 mol) is 150 mL of absolute ethanol, and added sodium borohydride (1.70 g, 0.045 mol). Stirred at room temperature for 15 mins then cooled to 0° C. Added cobalt (II) chloride (4.29 g, 0.018 mol) portionwise. Stirred at room temperature for 30 mins then added additional sodium borohydride (1.70 g, 0.045 mol). Stirred at room temperature for 16 hours. Evaporated, and added 0.5N HCl. Washed with ethyl acetate, and extracted organic solution with 1.0N HCl. Combined acidic aqueous extracts, and made basic with 25 weight % NaOH. Extracted basic solution with dichloromethane. Dried combined organic extracts with MgSO4, filtered, and evaporated. Purified by flash chromatography on silica gel eluting with ethyl acetate. Combined appropriate fractions, and evaporated to give 1.4 g (30% yield) of 10,11-dihydro-5-propyl-5H-dibenzo[a,d]cycloheptene-5-methanamine as an oil. Dissolved free base in ethyl acetate, and added one equivalent of maleic acid dissolved in ethanol. Added ether to precipitate maleate salt.

reactant | 10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-nitrile | 0.018 mol, 4.68 g | C(C=C)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)C#N | C19H17N
reactant | sodium borohydride | 0.045 mol, 1.70 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.045 mol, 1.70 g | [BH4-].[Na+]
catalyst | cobalt (II) chloride | 0.018 mol, 4.29 g | [Co](Cl)Cl
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 10,11-dihydro-5-propyl-5H-dibenzo[a,d]cycloheptene-5-methanamine | 1.4 g, 30% yield | C(CC)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)CN | C19H23N
